US06001997
(a) (RS)-3-Chloroacetyltetrahydrofuran
(RS)-3-Tetrahydrofuroic acid (3.48 g) in dichloromethane (40 ml) was treated with oxalyl chloride (11.43 g) as described in Example 1 (a). The resultant acid chloride in dichloromethane (40 ml) was then treated with excess diazomethane (60 mM) in ether (100 ml), followed by hydrogen chloride. The solution was washed once with brine, dried and concentrated. Flash chromatography on silica gel, eluting with 40% ethyl acetate/hexane afforded the title compound as a pale yellow oil, (3.924 g, 88%); νmax (CH2Cl2) 1735 and 1716 cm-1 ; 2.17 (2 H, dt, J 7.0, 7.5 Hz), 3.47-3.58 (1 H, m), 3.77-4.04 (4 H, m) and 4.18 (2 H, s); [mass spectrum: +ve ion (ammonia) MNH4+ (166)].

reactant | (RS)-3-Tetrahydrofuroic acid | 3.48 g | O1CC(CC1)C(=O)O | C5H8O3
reactant | oxalyl chloride | 11.43 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diazomethane | 60 mM | [N+](=[N-])=C | CH2N2
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | ether | 100 ml | CCOCC | C4H10O
product | (RS)-3-Chloroacetyltetrahydrofuran | 3.924 g, 88% | ClCC(=O)C1COCC1 | C6H9ClO2
